US06118020
DDAIP was prepared by transesterification of ethyl 2-(N,N-dimethylamino)-propionate obtained from Varsal Instruments Inc. (Warminster, Pa). Specifically, a mixture ethyl 2-(N,N-dimethylamino)-propionate, 1-dodecanol, and sodium methoxide predissolved in toluene was refluxed for about 2 hours. As ethanol formed, it was removed by azeotropic distillation. After about 2 hours of refluxing, the remaining reaction product was filtered to remove solids.

reactant | ethyl 2-(N,N-dimethylamino)-propionate | CN(C)C(C(=O)OCC)C | C7H15NO2
reactant | 1-dodecanol | C(CCCCCCCCCCC)O | C12H26O
reactant | sodium methoxide | C[O-].[Na+]
reactant | ethanol | C(C)O | C2H6O
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | DDAIP | CCCCCCCCCCCCOC(=O)C(C)N(C)C | C17H35NO2
